US04997840
A mixture of 4'-methoxy-3'-methyl-N-methylacetanilide (53 g), sodium hydroxide (22 g), water (75 ml) and industrial methylated spirit (200 ml) was heated under reflux for 36 hours. Solvent was removed by evaporation, water (350 ml) was added to the residue and the mixture extracted with diethyl ether (2×300 ml). The combined extracts were washed with water (250 ml), dried over magnesium sulphate and the solvent was removed by evaporation to give the novel compound 4-methoxy-3-methyl-N-methylaniline in the form of an oil.

reactant | 4'-methoxy-3'-methyl-N-methylacetanilide | 53 g | COC1=C(C=C(N(C(C)=O)C)C=C1)C | C11H15NO2
reactant | sodium hydroxide | 22 g | [OH-].[Na+]
solvent | water | 75 ml | O | H2O
product | 4-methoxy-3-methyl-N-methylaniline | COC1=C(C=C(NC)C=C1)C | C9H13NO
